US08604015B2
Oxalyl dichloride (236 μl, 2.78 mmol) was added dropwise to a solution of 1-methylpiperidine-4-carboxylic acid hydrochloride (500 mg, 2.78 mmol) in DCM (30 ml) and few drops of DMF (catalytic amount). The reaction was stirred at room temperature for 2 hours. The volatiles were removed under vacuum, and the crude was taken up with pyridine (40 ml). 1,2-Diphenylethanone (546 mg, 2.78 mmol) was added, and the resulting suspension was heated under microwave irradiation at 140° C. for 1 hour. Pyridine was removed under vacuum, and the crude was purified by flash chromatography (DCM/MeOH=95/5) to obtain (E)-1,2-diphenylvinyl 1-methylpiperidine-4-carboxylate (62 mg).

reactant | Oxalyl dichloride | 2.78 mmol, 236 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methylpiperidine-4-carboxylic acid hydrochloride | 2.78 mmol, 500 mg | Cl.CN1CCC(CC1)C(=O)O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1,2-Diphenylethanone | 2.78 mmol, 546 mg | C1(=CC=CC=C1)C(CC1=CC=CC=C1)=O | C14H12O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | (E)-1,2-diphenylvinyl 1-methylpiperidine-4-carboxylate | 62 mg | CN1CCC(CC1)C(=O)O\C(=C\C1=CC=CC=C1)\C1=CC=CC=C1 | C21H23NO2
